US07521480B2
{2-[3-(3-Bromo-phenyl)-ureido]-4-chloro-phenyl}-acetic acid (Compound 1c)
6-Chlorooxindole (2.5 g, 14.9 mmol) was suspended in 50 ml 4 M aqueous NaOH and the mixture was refluxed for 6 hours. The reaction mixture was allowed to cool and the product precipitated and filtered off with suction. The solid was dissolved in water (100 ml) and precipitated with 4 M aqueous HCl at 0° C. The solid was then filtered with suction and dried under vacuum to yield 2.0 g (72%) of white crystalline solid. (2-Amino-4-chloro-phenyl)-acetic acid (700 mg, 3.8 mmol) was then dissolved in 25 ml pyridine and 1-bromo-3-isocyanato-benzene (811 mg, 4.1 mmol) was added drop-wise and the solution was stirred for 90 minutes. The reaction mixture was diluted with 150 ml ethyl acetate and washed twice with 1 M aqueous HCl. The organic phase was reduced under vacuum and the product recrystallised from ethyl acetate/heptane to yield 680 mg of white crystalline solid (47%) (m.p. 195-196° C.)

reactant | (2-Amino-4-chloro-phenyl)-acetic acid | 3.8 mmol, 700 mg | NC1=C(C=CC(=C1)Cl)CC(=O)O | C8H8ClNO2
reactant | 1-bromo-3-isocyanato-benzene | 4.1 mmol, 811 mg | BrC1=CC(=CC=C1)N=C=O | C7H4BrNO
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | {2-[3-(3-Bromo-phenyl)-ureido]-4-chloro-phenyl}-acetic acid | 680 mg, 47% | BrC=1C=C(C=CC1)NC(NC1=C(C=CC(=C1)Cl)CC(=O)O)=O | C15H12BrClN2O3
